US04767769
A stirred suspension of anhydrous sodium carbonate (0.923 g), 2-(3-methoxyphenyl)ethylamine (0.5 g) and 1,4-dibromobutane (0.43 ml) in dry xylene (5.5 ml) was heated under reflux for 16 hours. The reaction mixture was allowed to cool to room temperature and was filtered. The filtrate was extracted with 5N hydrochloric acid. The acidic extracts were washed with ether and then basified with 5N sodium hydroxide solution and extracted with ether. The ether extracts were washed with water, dried and the ether removed by evaporation to give 3-(2-pyrrolidin-1-ylethyl)anisole.

reactant | sodium carbonate | 0.923 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(3-methoxyphenyl)ethylamine | 0.5 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | 1,4-dibromobutane | 0.43 ml | BrCCCCBr | C4H8Br2
solvent | xylene | 5.5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-(2-pyrrolidin-1-ylethyl)anisole | N1(CCCC1)CCC=1C=C(C=CC1)OC | C13H19NO
